US04011241
The acid chloride from Preparation 3A is converted to the methyl ester by reaction with methanol and triethylamine. 2.0 Gm. of methyl 5H-dibenzo[a,d]cyclohepten-5-one-2-carboxylate is dissolved in 200 ml. of ether and 0.5 gm. of lithium aluminium hydride is added. The reaction is refluxed for two hours then cooled and the excess reducing agent is decomposed by addition of water. The solution is filtered and to the filtrate is added 15.0 gm. of manganese dioxide. The mixture is stirred for 16 hours then filtered and evaporated to give a 50% yield of 2-formyl 5H-dibenzo[a,d] cyclohepten5-one, m.p. 149°-152° C.

reactant | methanol | CO | CH4O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methyl 5H-dibenzo[a,d]cyclohepten-5-one-2-carboxylate | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(=O)OC | C17H12O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-formyl 5H-dibenzo[a,d] cyclohepten5-one | 50% yield | C(=O)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1 | C16H10O2
